US06566372B1
To a solution of 2-indolone (200 mg, 1.5 mmol) in dry THF (15 mL) and TMEDA (0.45 mL, 3.0 mmol) at −78° C. was added n-BuLi (1.9 mL, 1.6M in hex.). The reaction mixture was warmed to −20° C. and iodomethane was added (0.1 mL, 1.5 mmol). After 1 hr, added another equivalent of iodomethane (0.1 mL, 1.5 mmol). Warmed reaction mixture to room temperature and stirred for 15 hrs. Quenched reaction with saturated NH4Cl (10 mL) and extracted with EtOAc (20 mL). The organic layer was washed with brine (3×10 mL), dried (Na2SO4), and concentrated in vacuo. Purified by flash chromatography (10% hexane/EtOAc to 50% hexane/EtOAc gradient) to afford 126 mg (52%) of 3,3-dimethyl-2-indolone as a white solid. Next, to a solution of the 3,3-dimethyl-2-indolone (126 mg, 0.78 mmol) and CCl4 (10 mL) was added bromine (0.04 mL, 0.78 mmol) at room temperature. After 1 hr, the reaction mixture was partitioned between EtOAc (10 mL) and brine (5 mL). The organic layer was washed with brine (3×5 mL), dried (Na2SO4), and concentrated in vacuo to afford 180 mg (96%) of Compound 713 as a white solid: 1H NMR (400 MHz, CDCl3) 9.00 (br s, 1H), 7.38 (d, J=8.2, 1H), 7.35 (s, 1H), 6.97 (d, J=8.2, 1H), 1.44 (s, 6H).

reactant | 2-indolone | 1.5 mmol, 200 mg | N=1C(C=C2C=CC=CC12)=O | C8H5NO
reactant | TMEDA | 3.0 mmol, 0.45 mL | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 1.6M, 1.9 mL | [Li]CCCC
reactant | iodomethane | IC | CH3I
reactant | iodomethane | 1.5 mmol, 0.1 mL | IC | CH3I
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | 3,3-dimethyl-2-indolone | 126 mg, 52% | CC1(C(NC2=CC=CC=C12)=O)C | C10H11NO
